US08609657B2
N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]-2,4-difluorobenzenesulfonamide
N-[5-[4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]-2,4-difluorobenzenesulfonamide (105 mg, 0.140 mmol) was suspended in isopropanol (2 ml) and 2M sodium hydroxide (aq) (0.699 ml, 1.399 mmol) added. The reaction mixture was stirred at RT for 2 h, the solvent removed under a stream of nitrogen and the residue dissolved in water (1 ml) and acidified to pH˜6 by the addition of 2M hydrogen chloride (aq)(a black precipitate formed). The suspension was extracted with dichloromethane (3×2 ml) and the combined organics dried to give a brown solid. This was combined with the black precipitate which remained insoluble in the extraction, dissolved in MeOH:DMSO (1 ml, 1:1, v/v) and purified by MDAP (method A). The appropriate fractions were concentrated in vacuo to give the title compound as a white solid (20 mg).

reactant | N-[5-[4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]-2,4-difluorobenzenesulfonamide | 0.140 mmol, 105 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=CN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C1=C(C=C(C=C1)F)F)S(=O)(=O)C1=CC=CC=C1 | C35H32F2N6O7S2
reactant | sodium hydroxide | 1.399 mmol, 2M, 0.699 ml | [OH-].[Na+]
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]-2,4-difluorobenzenesulfonamide | 20 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=CN=C(O1)C1=C2C=NNC2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C29H28F2N6O5S
